US07875645B2
rac-2-[1-(3-Bromo-phenyl)-propyl]-4,5-dihydro-1H-imidazole was prepared from 2-(3-bromo-phenyl)-butyronitrile and ethylene diamine in analogy to Example 19 b) but the reaction mixture was heated under microwave irradiation to 130° C. for 1 hour: colourless powder; MS (ISP): 269.0 and 267.0 ((M+H)+.).

reactant | 2-(3-bromo-phenyl)-butyronitrile | BrC=1C=C(C=CC1)C(C#N)CC | C10H10BrN
reactant | ethylene diamine | C(CN)N | C2H8N2
product | rac-2-[1-(3-Bromo-phenyl)-propyl]-4,5-dihydro-1H-imidazole | BrC=1C=C(C=CC1)C(CC)C=1NCCN1 | C12H15BrN2
